US06569854B1
1.5 g of 1-ethylpiperazine and 1.5 g of glutaric anhydride in solution in 5 cm3 of dioxane are added, under argon, to 10 cm3 of dioxane. The stirring is continued at 25° C. for 19 hours. The solvents are evaporated under reduced pressure (2.7 kPa) to give a brown oil which is stirred in ethyl ether. The solid obtained is filtered, rinsed with diethyl ether and then dried at 20° C. (90 Pa) to give 1.95 g of 5-(4-ethylpiperazin-1-yl)-5-oxopentanoic acid in the form of a hygroscopic pink solid which is used as it is.

reactant | 1-ethylpiperazine | 1.5 g | C(C)N1CCNCC1 | C6H14N2
reactant | glutaric anhydride | 1.5 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | dioxane | 10 cm3 | O1CCOCC1 | C4H8O2
product | 5-(4-ethylpiperazin-1-yl)-5-oxopentanoic acid | 1.95 g | C(C)N1CCN(CC1)C(CCCC(=O)O)=O | C11H20N2O3
